US04416965
Step 1--Poly(ethylene 1,4-cyclohexanedicarboxylate:terephthalate 29:71)
A mixture of dimethyl 1,4-cyclohexanedicarboxylate (88.1 g, 0.40 mole), dimethyl terephthalate (194.0 g, 1.0 mole), and ethylene glycol (147.7 g, 1.7 mole) in the presence of zinc diacetate dihydrate (0.0629 g) and antimony trioxide (0.158 g) was heated at 200° C. under a slow stream of nitrogen overnight until the evolution of methanol ceased. The temperature was increased to 240° C., and the mixture was stirred under reduced pressure (0.025 mm Hg) for 3 hours until the stirring was difficult. The reaction mixture on cooling under nitrogen afforded a water white, amorphous polymer Tg 59° C., I.V. 0.58 dl/g).

reactant | dimethyl 1,4-cyclohexanedicarboxylate | 0.40 mole, 88.1 g | C1(CCC(CC1)C(=O)OC)C(=O)OC | C10H16O4
reactant | dimethyl terephthalate | 1.0 mole, 194.0 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | ethylene glycol | 1.7 mole, 147.7 g | C(CO)O | C2H6O2
reactant | antimony trioxide | 0.158 g | O=[Sb]O[Sb]=O
catalyst | zinc diacetate dihydrate | 0.0629 g | O.O.C(C)(=O)[O-].C(C)(=O)[O-].[Zn+2]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | ethylene 1,4-cyclohexanedicarboxylate terephthalate | C12CCC(CC1)C(=O)OCCOC2=O.C(C1=CC=C(C(=O)[O-])C=C1)(=O)[O-] | InChI=1S/C10H14O4.C8H6O4/c11-9-7-1-2-8(4-3-7)10(12)14-6-5-13-9;9-7(10)5-1-2-6(4-3-5)8(11)12/h7-8H,1-6H2;1-4H,(H,9,10)(H,11,12)/p-2
